US06323235B1
4-benzyloxyindole
Potassium hydroxide (0.42 g) was added to 4-hydroxyindole (1.00 g) in DMF (25 ml), and the solution was stirred at room temperature for 15 minutes. Benzyl bromide (1.00 ml) was added to the solution, and the solution was stirred at room temperature for 1.5 hours. Since the reaction was not completed, benzyl bromide (0.20 ml) was further added and the solution was stirred for 5 hours. After removing the solvent under reduced pressure, water (50 ml) was added to the residue and the resultant was extracted with ether (3×50 ml). The organic layers were washed with saturated brine, and dried over sodium sulfate. After removing solids by filtration, the solvent was removed under reduced pressure and the obtained crude product was purified by silica gel column chromatography to obtain the desired product (1.43 g, yield: 85%).

reactant | Potassium hydroxide | 0.42 g | [OH-].[K+]
reactant | 4-hydroxyindole | 1.00 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | Benzyl bromide | 1.00 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 0.20 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxyindole | 1.43 g, yield: 85% | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1 | C15H13NO
